US08076482B2
Preparation of intermediate chiral (2′S, 3S, 4′R)-1-acetyl-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of chiral (2′S, 3S, 4′R)-1-acetyl-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (50 mg, 0.07 mmol) and Lawesson's Reagent (56 mg, 0.126 mmol) in toluene (5 mL) was heated at 125° C. for 1.5 h. The mixture was purified by flash column chromatography to give the title compound as white solid (15 mg).

reactant | 1-acetyl-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.07 mmol, 50 mg | C(C)(=O)N1C(C2(C(NC(CC2C2=C(C=CC(=C2)Cl)OC(C(=O)NS(=O)(=O)C)(CC)CC)=O)C2=C(C=CC(=C2)F)C)C2=CC=C(C=C12)Cl)=O | C34H34Cl2FN3O7S
reactant | Lawesson's Reagent | 0.126 mmol, 56 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-acetyl-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 15 mg | C(C)(=O)N1C(C2(C(NC(CC2C2=C(C=CC(=C2)Cl)OC(C(=O)NS(=O)(=O)C)(CC)CC)=S)C2=C(C=CC(=C2)F)C)C2=CC=C(C=C12)Cl)=O | C34H34Cl2FN3O6S2
